US08048887B2
tert-Butyl 2-(1-(3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzamido)cyclopropanecarbonyl)hydrazinecarboxylate
To a mixture of 1-(3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzamido)cyclopropanecarboxylic acid (41.6 mg, 0.086 mmol), tert-butyl hydrazinecarboxylate (16.95 mg, 0.128 mmol) and 2-(1H-benzo[d][1,2,3]triazol-1-yl)-1,1,3,3-tetramethylisouronium tetrafluoroborate (54.9 mg, 0.171 mmol) in DMF (1 mL) at r.t under N2 was added N,N-diisopropylethylamine (0.060 mL, 0.342 mmol). The mixture was stirred at r.t. for 19 hours. The mixture was added 5 ml H2O. The white precipitates were filtered, washed with 3×2 ml H2O and dried (33.1 mg), and was used without further purification. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=5 ml/min, Column: PHENOMENEX® Luna, 3.0×50 mm, S10; HPLC Rt=1.750 min.

reactant | 1-(3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzamido)cyclopropanecarboxylic acid | 0.086 mmol, 41.6 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)NC1(CC1)C(=O)O)C=CC2C | C28H23FN2O5
reactant | tert-butyl hydrazinecarboxylate | 0.128 mmol, 16.95 mg | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | N,N-diisopropylethylamine | 0.342 mmol, 0.060 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | H2O | 5 ml | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 2-(1-(3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzamido)cyclopropanecarbonyl)hydrazinecarboxylate | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)NC1(CC1)C(=O)NNC(=O)OC(C)(C)C)C=CC2C | C33H33FN4O6
